US07550598B2
(Z)—N-(3-(2-(5-oxo-3-propyl-1H-pyrazol-4(5H)-ylidene)-1,2-dihydroquinolin-4-yl)phenyl)methanesulfonamide
The tile compound was synthesized from (Z)-4-(4-chloroquinolin-2(1H)-ylidene)-3-propyl-1H-pyrazol-5(4H)-one and 3-(methylsulfonamido)phenylboronic acid using Suzuki coupling conditions. The final compound was purified by LC-MS. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.95 (t, J=7.33 Hz, 3H) 1.71 (td, J=14.53, 6.82 Hz, 2H) 2.94 (t, J=7.33 Hz, 2H) 3.09 (s, 3H) 7.33 (d, J=7.83 Hz, 1H) 7.41 (d, J=1.77 Hz, 2H) 7.50-7.61 (m, 2H) 7.69 (s, 1H) 7.77-7.83 (m, 2H) 7.99 (d, J=8.34 Hz, 1H) 10.04 (s, 1H); ESI-MS: m/z calc'd for C22H22N4O3S 422.5. found 423.3 (M+H)+.

reactant | (Z)-4-(4-chloroquinolin-2(1H)-ylidene)-3-propyl-1H-pyrazol-5(4H)-one | ClC1=C/C(/NC2=CC=CC=C12)=C/1\C(=NNC1=O)CCC | C15H14ClN3O
reactant | 3-(methylsulfonamido)phenylboronic acid | CS(=O)(=O)NC=1C=C(C=CC1)B(O)O | C7H10BNO4S
product | (Z)—N-(3-(2-(5-oxo-3-propyl-1H-pyrazol-4(5H)-ylidene)-1,2-dihydroquinolin-4-yl)phenyl)methanesulfonamide | O=C1\C(\C(=NN1)CCC)=C\1/NC2=CC=CC=C2C(=C1)C=1C=C(C=CC1)NS(=O)(=O)C | C22H22N4O3S
